US07659305B2
(2S,4S)-4-(4-Chloro-benzyloxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
(2S,4S)-4-Hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyester (CAS Reg. No. 227935-38-8)(300 mg, 1.0 mmol) and 60% sodium hydride mineral oil dispersion (61 mg, 1.1 mmol) were dissolved in anhydrous dimethylformamide (9 ml) at 0° C. under a nitrogen atmosphere. After 10 mins stirring 4-chlorobenzylbromide (265 mg, 1.2 mmol) in CH2Cl2 (1 ml) was added drop wise and the reaction mixture stirred to room temperature for 1 hour. The solvent was removed under reduced pressure and the residue dissolved in ethyl acetate (25 ml), washed with water (2×25 ml), dried (magnesium sulphate), filtered and evaporated under reduced pressure. The residue was purified using flash chromatography eluting with a solvent gradient 4:1 heptane:ethyl acetate, yielding the title compound (170 mg, 40% yield) as an oil.

reactant | (2S,4S)-4-Hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyester | COC(=O)[C@H]1N(C[C@H](C1)O)C(=O)OC(C)(C)C | C11H19NO5
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chlorobenzylbromide | 1.2 mmol, 265 mg | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
product | (2S,4S)-4-(4-Chloro-benzyloxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 170 mg, 40% yield | COC(=O)[C@H]1N(C[C@H](C1)OCC1=CC=C(C=C1)Cl)C(=O)OC(C)(C)C | C18H24ClNO5
